US04496563
29.5 parts of isopropylamine and 55.6 parts of triethylamine were introduced into 320 parts of THF. 60 parts of trimethylchlorosilane were added a little at a time at from 0° to -5° C. under nitrogen and the mixture was stirred at room temperature for 30 minutes and at 60° C. for 1 hour and then cooled to -10° C. 33.8 parts of sulfuryl chloride were added a little at a time and the mixture was allowed to warm to room temperature and was then stirred for 2 hours. The trimethylchlorosilane and the solvent were distilled off and the residue was washed with ice-water. 30.5 parts of N,N'-diisopropylsulfamide of melting point 98°-101° C. (starting substance) were obtained.

reactant | isopropylamine | C(C)(C)N | C3H9N
reactant | triethylamine | C(C)N(CC)CC | C6H15N
reactant | trimethylchlorosilane | C[Si](Cl)(C)C | C3H9ClSi
reactant | sulfuryl chloride | S(=O)(=O)(Cl)Cl | Cl2O2S
solvent | THF | C1CCOC1 | C4H8O
product | N,N'-diisopropylsulfamide | C(C)(C)NS(=O)(=O)NC(C)C | C6H16N2O2S
